US07491713B2
Step B: (2S,6S)-6-Amino-4-(cyclopropylmethyl)-2-phenyl-1,4-thiazepan-5-one 1,1-dioxide
Trifluoroacetic acid (2.0 mL) was added to a solution of tert-butyl (2S,6S)-4-(cyclopropylmethyl)-1,1-dioxido-5-oxo-2-phenyl-1,4-thiazepan-6-ylcarbamate (63 mg, 0.167 mmol) in dichloromethane (5 mL). After 1 h, the mixture was concentrated and aqueous saturated sodium bicarbonate was added. The mixture was extracted with dichloromethane (2×), and the combined organic extracts were dried over magnesium sulfate, filtered, and concentrated to give the crude product (50 mg).

reactant | Trifluoroacetic acid | 2.0 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl (2S,6S)-4-(cyclopropylmethyl)-1,1-dioxido-5-oxo-2-phenyl-1,4-thiazepan-6-ylcarbamate | 0.167 mmol, 63 mg | C1(CC1)CN1C[C@@H](S(C[C@H](C1=O)NC(OC(C)(C)C)=O)(=O)=O)C1=CC=CC=C1 | C20H28N2O5S
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | (2S,6S)-6-Amino-4-(cyclopropylmethyl)-2-phenyl-1,4-thiazepan-5-one 1,1-dioxide | 50 mg | N[C@H]1C(N(C[C@@H](S(C1)(=O)=O)C1=CC=CC=C1)CC1CC1)=O | C15H20N2O3S
